US08604055B2
Step (iv): Synthesis of {5-[(3,5-bis-trifluoromethyl-benzylamino)-methyl]-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridin-6-yl}-cyclopentylmethyl-ethyl-amine
A mixture of 6-(cyclopentylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde (5.3 g, 17.0 mmol) and 3,5-bis-trifluoromethylbenzylamine (4.7 g, 0.019 mol) in MeOH and acetic acid (2 drops) was stirred at RT for 30 min. After cooling to 0° C., sodium cyanoborohydride (2.2 g, 35.0 mmol) was added slowly over a period of about 10 min. After stirring atRT for 30 min, the reaction mixture was concentrated in vacuo. Water (50 mL) was added to the residue and stirred for 30 min. The solid was filtered off, washed with water followed by petroleum ether, and dried in vacuo to yield colorless solid (yield: 72%).

reactant | 6-(cyclopentylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 17.0 mmol, 5.3 g | C1(CCCC1)CN(C1=C(C=C2C(=N1)N(N=C2C)C)C=O)CC | C17H24N4O
reactant | 3,5-bis-trifluoromethylbenzylamine | 0.019 mol, 4.7 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | sodium cyanoborohydride | 35.0 mmol, 2.2 g | C(#N)[BH3-].[Na+]
solvent | MeOH | CO | CH4O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | {5-[(3,5-bis-trifluoromethyl-benzylamino)-methyl]-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridin-6-yl}-cyclopentylmethyl-ethyl-amine | yield: 72% | FC(C=1C=C(CNCC=2C=C3C(=NC2N(CC)CC2CCCC2)N(N=C3C)C)C=C(C1)C(F)(F)F)(F)F | C26H31F6N5
